US04027028
Using the procedure of Example I step B and starting from (4-acetamidophenoxyethyl) bromide and 4-(N-phenyl N-propionylamino) piperidine, N-[(4-acetamidophenoxy) ethyl] 4-(N'-phenyl N'-propionylamino) piperidine is obtained which melts at 78°.

reactant | (4-acetamidophenoxyethyl) bromide | C(C)(=O)NC1=CC=C(OCCBr)C=C1 | C10H12BrNO2
reactant | 4-(N-phenyl N-propionylamino) piperidine | C1(=CC=CC=C1)N(C(CC)=O)C1CCNCC1 | C14H20N2O
product | N-[(4-acetamidophenoxy) ethyl] 4-(N'-phenyl N'-propionylamino) piperidine | C(C)(=O)NC1=CC=C(OCCN2CCC(CC2)N(C(CC)=O)C2=CC=CC=C2)C=C1 | C24H31N3O3
